US09216968B2
THF (1 mL) was added to 2-chloro-N-(3-chloro-2-methylphenyl)-6-{[(2,5-dichlorophenyl)carbonyl]amino}-1H-benzimidazole-4-carboxamide (50 mg) and 3-amino-2,2-dimethyl-1-propanol (400 mg). The mixture was stirred at 150° C. in a sealed pressure-proof stainless steel container for 8 hours. The reaction mixture was diluted with ethyl acetate, washed with brine and concentrated under reduced pressure. The residue was purified on column chromatography to obtain N-(3-chloro-2-methylphenyl)-6-{[(2,5-dichlorophenyl)carbonyl]amino}-2-[(3-hydroxy-2,2-dimethylpropyl)amino]-1H-benzimidazole-4-carboxamide (50 mg) as pale yellow powder. This was dissolved in MeOH (1 mL), and 2N Hydrogen chloride/EtOH solution (1 Eq) was added, and it was stirred and concentrated. The residue was triturated in diethyl ether, and the precipitate was collected by filtration and dried to obtain the titled compound (40 mg) as white powder.

reactant | THF | 1 mL | C1CCOC1 | C4H8O
reactant | 2-chloro-N-(3-chloro-2-methylphenyl)-6-{[(2,5-dichlorophenyl)carbonyl]amino}-1H-benzimidazole-4-carboxamide | 50 mg | ClC1=NC2=C(N1)C=C(C=C2C(=O)NC2=C(C(=CC=C2)Cl)C)NC(=O)C2=C(C=CC(=C2)Cl)Cl | C22H14Cl4N4O2
reactant | 3-amino-2,2-dimethyl-1-propanol | 400 mg | NCC(CO)(C)C | C5H13NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | N-(3-chloro-2-methylphenyl)-6-{[(2,5-dichlorophenyl)carbonyl]amino}-2-[(3-hydroxy-2,2-dimethylpropyl)amino]-1H-benzimidazole-4-carboxamide | 50 mg | ClC=1C(=C(C=CC1)NC(=O)C1=CC(=CC=2NC(=NC21)NCC(CO)(C)C)NC(=O)C2=C(C=CC(=C2)Cl)Cl)C | C27H26Cl3N5O3
